US08222416B2
A solution of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-trifluoromethyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (260 mg, 0.49 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 2 mL, 2 mmol) were stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (150 mL), and washed with a saturated aqueous ammonium chloride solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-trifluoromethyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (191 mg, quant.) as a white solid: LC/MS m/e calcd for C22H21F3N2O [M+H]+ 387.42, observed 387.2.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-trifluoromethyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.49 mmol, 260 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCCC2)C2=CC=C(C=C2)C(F)(F)F | C28H25F3N2O3S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mmol, 1 M, 2 mL | O1CCCC1 | C4H8O
product | 2-[2-cyclopentyl-1-(4-trifluoromethyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 191 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)C(F)(F)F)C1=CC=2C(=NC=C(C2)OC)N1 | C22H21F3N2O
